US04021441
In the manner given in Example 31, 7-(ethylthio)-1-(chloromethyl)-6-(m-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4] benzodiazepine, potassium iodide and allylamine in tetrahydrofuran are reacted to give 7-(ethylthio)-1-[(allylamino)methyl]-6-(m-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine.

reactant | 7-(ethylthio)-1-(chloromethyl)-6-(m-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4] benzodiazepine | C(C)SC1=CC=CC2=C1C(=NCC=1N2C(=NN1)CCl)C1=CC(=CC=C1)Cl | C19H16Cl2N4S
reactant | potassium iodide | [I-].[K+]
reactant | allylamine | C(C=C)N | C3H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-(ethylthio)-1-[(allylamino)methyl]-6-(m-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | C(C)SC1=CC=CC2=C1C(=NCC=1N2C(=NN1)CNCC=C)C1=CC(=CC=C1)Cl | C22H22ClN5S
